US08748613B2
A mixture of 2-(azepan-1-yl)-2-phenylacetic acid (476 mg, 2.04 mmol), (R)-quinuclidin-3-ol (311 mg, 2.45 mmol), HOBT (375 mg, 2.45 mmol) and DCC (505 mg, 2.45 mmol) in THF (20 ml) was stirred at room temperature over a week-end. THF was evaporated, the crude was taken up with EtOAc and washed twice with 2M K2CO3 and then with brine. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash-chromatography (DCM/MeOH=95/5) to get (R)-quinuclidin-3-yl 2-(azepan-1-yl)-2-phenylacetate (110 mg, 15.7% yield) as a white solid.

reactant | 2-(azepan-1-yl)-2-phenylacetic acid | 2.04 mmol, 476 mg | N1(CCCCCC1)C(C(=O)O)C1=CC=CC=C1 | C14H19NO2
reactant | (R)-quinuclidin-3-ol | 2.45 mmol, 311 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | HOBT | 2.45 mmol, 375 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.45 mmol, 505 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(azepan-1-yl)-2-phenylacetate | 110 mg, 15.7% yield | N1(CCCCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H30N2O2
